US06635657B1
Preparation of 2-[1-(2-Carboxypyridin-4-yl)piperidin-4-ylmethylamino]-5-chloro-N-(5-chloropyridin-2-yl)benzamide
Using a similar procedure to that described in Example 52, 5-chloro-N-(5-chloropyridin-2-yl)-2-(piperidin-4-ylmethyl)aminobenzamide (166 mg, 0.44 mmol), 4-chloropicolinic acid (103 mg, 0.66 mmol), triethylamine (89 mg, 0.88 mmol), and ethanol (3 mL) yielded 180 mg (82%) of the title compound.

reactant | 5-chloro-N-(5-chloropyridin-2-yl)-2-(piperidin-4-ylmethyl)aminobenzamide | 0.44 mmol, 166 mg | ClC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NCC1CCNCC1 | C18H20Cl2N4O
reactant | 4-chloropicolinic acid | 0.66 mmol, 103 mg | ClC1=CC(=NC=C1)C(=O)O | C6H4ClNO2
reactant | triethylamine | 0.88 mmol, 89 mg | C(C)N(CC)CC | C6H15N
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 2-[1-(2-Carboxypyridin-4-yl)piperidin-4-ylmethylamino]-5-chloro-N-(5-chloropyridin-2-yl)benzamide | 180 mg, 82% | C(=O)(O)C1=NC=CC(=C1)N1CCC(CC1)CNC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=C(C=C1)Cl | C24H23Cl2N5O3
